US04711658
3.1 ml (0.039 mol) of anhydrous pyridine and 5.5 ml (0.038 mol) of trifluoroacetic anhydride are added in succession to 12 g (0.0363 mol) of 5-amino-1-(2,3,6-trichloro-4-trifluoromethylphenyl)-pyrazole in 65 ml of methylene chloride at 0° to 5° C., while stirring. For working up, 50 ml of methylene chloride are added, the mixture is washed in succession with dilute hydrochloric acid and aqueous sodium bicarbonate and sodium chloride solution, the organic phase is dried over magnesium sulphate and the solvent is removed in vacuo. 14.6 g (94.3% of theory) of 5-trifluoroacetamido-1-(2,3,6-trichloro-4-trifluoromethylphenyl)-pyrazole of melting point 140° C.-145° C. are obtained.

reactant | pyridine | 0.039 mol, 3.1 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 0.038 mol, 5.5 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 5-amino-1-(2,3,6-trichloro-4-trifluoromethylphenyl)-pyrazole | 0.0363 mol, 12 g | NC1=CC=NN1C1=C(C(=C(C=C1Cl)C(F)(F)F)Cl)Cl | C10H5Cl3F3N3
solvent | methylene chloride | 65 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 5-trifluoroacetamido-1-(2,3,6-trichloro-4-trifluoromethylphenyl)-pyrazole | 14.6 g, 94.3% | FC(C(=O)NC1=CC=NN1C1=C(C(=C(C=C1Cl)C(F)(F)F)Cl)Cl)(F)F | C12H4Cl3F6N3O
